US03974156
To a solution of 4-benzyl-2-(3-methylthioanilino)methylmorpholine (1.7 g.) in toluene (50 ml.) is added hexamethylphosphoramide (1 ml.) and then phenyl chloroformate (1.5 ml.). The mixture is heated under reflux for 18 hours, the toluene is then removed under reduced pressure, the oily residue is dissolved in ether and the ethereal solution is washed successively with sodium hydroxide solution, water, hydrochloric acid and water before drying over anhydrous magnesium sulphate. Evaporation of the dried filtered ethereal solution gives yellow oil (2.4 g.) or 2-(3-methylthioanilino)methyl-4-phenoxycarbonylmorpholine, which is dissolved in dimethylsulphoxide (20 ml.) and this solution is added to a solution of sodium methylsulphinylmethide [prepared in the usual way from sodium hydride (2.4 g.) and dimethylsulphoxide (50 ml.) ]. Water (1.8 ml.) is then added when the temperature of the mixture rises to about 60°C. The solution is stirred for 1 hour and then poured into water containing ice and the mixture extracted with ether (3 × 100 ml.). The ethereal solution is washed with water, dried (MgSO4) and filtered and the filtrate is treated with an ethereal solution of oxalic acid to precipitate 2-(3-methylthioanilino)methylmorpholine oxalate, m.p. 114°-115°C. after recrystallisation from acetone.

reactant | 4-benzyl-2-(3-methylthioanilino)methylmorpholine | 1.7 g | C(C1=CC=CC=C1)N1CC(OCC1)CNC1=CC(=CC=C1)SC | C19H24N2OS
reactant | hexamethylphosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | phenyl chloroformate | 1.5 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-methylthioanilino)methyl-4-phenoxycarbonylmorpholine | CSC=1C=C(NCC2CN(CCO2)C(=O)OC2=CC=CC=C2)C=CC1 | C19H22N2O3S
